US05436265
Step 3: 1 -(2,4,6-Trichlorobenzoyl)-5-methoxy-2-methyl-3-indolyl acetic acid
To 1-(2,4,6-trichlorobenzoyl)-5-methoxy-2-methyl-3-indolyl acetic acid 2-(trimethylsilyl)ethyl ester (2.80 g) in THF (25.0 mL) at 0° C. was added TBAF (14.7 mL). After a period of 5 h at room temperature, the reaction mixture was acidified by the addition of NH4Cl and HCl, extracted with EtOAc, dried over Na2SO4 and evaporated. The resulting solid was washed with 10% EtOAc in hexane and recrystallized (EtOAc-hexane) to afford 1.73 g of the title compound, m.p. 193°-196° C.

reactant | 1-(2,4,6-trichlorobenzoyl)-5-methoxy-2-methyl-3-indolyl acetic acid 2-(trimethylsilyl)ethyl ester | 2.80 g | C[Si](CCOC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=C(C=C(C=C1Cl)Cl)Cl)=O)C)=O)(C)C | C24H26Cl3NO4Si
reactant | TBAF | 14.7 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | HCl | Cl | ClH
solvent | THF | 25.0 mL | C1CCOC1 | C4H8O
product | 1 -(2,4,6-Trichlorobenzoyl)-5-methoxy-2-methyl-3-indolyl acetic acid | 1.73 g | ClC1=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)O)C)C(=CC(=C1)Cl)Cl | C19H14Cl3NO4
